US06326369B1
1-[2-(1,2,3,4-Tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethyl]-1H-benzo[d]imidazole
A mixture of 7-(2-iodoethyl)-1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene (1.50 g), benzimidazole (443 mg), and sodium carbonate (760 mg) in DMF (15 ml) was stirred at 70° C. for 8 hr. The reaction mixture was diluted with water and extracted with combined solution of ethyl acetate and THF. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo and the residue was diluted with diethylether and the resultant crystals were removed by filtration. The filtrate was concentrate in vacuo. The residue was purified by silica gel column chromatography (hexane to hexane:ethyl acetate=1:2) and then with recrystallization from hexane-ethyl acetate to obtain the entitled compound (480 mg).

reactant | 7-(2-iodoethyl)-1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene | 1.50 g | ICCC1CCC2=C(CC1)C(=C(C(=C2OC)OC)OC)OC | C17H25IO4
reactant | benzimidazole | 443 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | sodium carbonate | 760 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-[2-(1,2,3,4-Tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethyl]-1H-benzo[d]imidazole | 480 mg | COC1=C(C(=C(C2=C1CCC(CC2)CCN2C=NC1=C2C=CC=C1)OC)OC)OC | C24H30N2O4
